US08735410B2
A stirred solution of (2R,4R)-1-(tert-butoxycarbonyl)-4-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}oxy)piperidine-2-carboxylic acid (5.35 g, 9.80 mmol) in THF (50 ml) was cooled to −15° C. (acetone/ice). NMM (1.49 ml, 14.9 mmol) was added to the solution followed by IBCF (2.0 ml, 12.75 mmol). The reaction mixture was held at −15° C. (the formation of the mixed anhydride was monitored by TLC (THF)). After 5-10 minutes, the reaction mixture was treated with a 2.0M solution of methylamine in THF (10 ml) at −15° C. and allowed to warm to room temperature. The reaction mixture was diluted with DCM (250 ml), washed with water (2×20 ml) and concentrated to give tert-butyl (2R,4R)-4-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}oxy)-2-[(methylamino)carbonyl]piperidine-1-carboxylate (5.94 g, 100%) as a pale yellow foam which was used without further purification; Mass Spectrum: (M+H)+ 560.1.

reactant | (2R,4R)-1-(tert-butoxycarbonyl)-4-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}oxy)piperidine-2-carboxylic acid | 9.80 mmol, 5.35 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](CC1)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F)C(=O)O | C26H28ClFN4O6
reactant | NMM | 14.9 mmol, 1.49 ml | CN1CCOCC1 | C5H11NO
reactant | methylamine | CN | CH5N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (2R,4R)-4-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}oxy)-2-[(methylamino)carbonyl]piperidine-1-carboxylate | 5.94 g, 100% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)O[C@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)NC)OC)F | C27H31ClFN5O5
